US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-ethylcarbamoyl-benzyl)-amino]-cycloheptanecarboxylic acid amide.
cis-4-[[(2-Carbamoyl-cycloheptyl)-(4-chlorobenzenesulfonyl)-amino]-methyl]-benzoic acid methyl ester (50 mg, 0.10 mmol) and ethylamine (1.0 M in MeOH, 6 mL) were heated with stirring at 60° C. for 16 h. The solution was concentrated to dryness and the product purified by silica-gel column chromatography (20%–90% EtOAc/Hexanes) to afford 9.0 mg (18% yield) of the titled compound: 1 H NMR (DMSO-d6) δ 7.89 (m, 1 H), 7.80 (d, 2 H, J=8.0 Hz), 7.72 (d, 2 H, J=8.0 Hz), 7.64 (d, 2 H, J=8.0 Hz), 7.36 (d, 2 H, J=8.0 Hz), 7.32 (s br, 1 ), 6.67 (s br, 1 H), 4.58 (AB2,2 H,Δv=16,Jab=108 Hz), 3.97 (m, 1 H), 2.76 (m, 1 H), 2.26 (m, 2 H), 1.72 (m, 2 H), 1.35 (m, 8 H), 1.12 (t, 3 H, J=8.0 Hz); MS m/e 492.29 (M+H)+.

reactant | cis-4-[[(2-Carbamoyl-cycloheptyl)-(4-chlorobenzenesulfonyl)-amino]-methyl]-benzoic acid methyl ester | 0.10 mmol, 50 mg | COC(C1=CC=C(C=C1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)[C@H]1[C@H](CCCCC1)C(N)=O)=O | C23H27ClN2O5S
reactant | ethylamine | 1.0 M, 6 mL | C(C)N | C2H7N
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-ethylcarbamoyl-benzyl)-amino]-cycloheptanecarboxylic acid amide | 9.0 mg, 18% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCCC1)C(=O)N)CC1=CC=C(C=C1)C(NCC)=O | C24H30ClN3O4S
